US08530486B2
2-phthalimidoethane-N-phenylsulfonamide
2-Phthalimidoethanesulfonyl chloride (2.0 g) was added in portions to a solution of aniline (2.3 g) in chloroform (15 ml) and the resulting mixture was stirred at room temperature for 16 hours. The organic phase was then washed with water and 1 M HCl. Removal of the solvent gave the crude product as a solid that was recrystallised from EtOH to yield 1.76 g (65%) of the title compound as a solid. 1H-NMR (CDCl3) δ (ppm) 7.87-7.83 (m, 2H), 7.77-7.70 (m, 2H), 7.32-7.10 (m, 5H), 4.09-4.03 (m, 2H), 3.47-3.41 (m, 2H).

reactant | 2-Phthalimidoethanesulfonyl chloride | 2.0 g | C1(C=2C(C(N1CCS(=O)(=O)Cl)=O)=CC=CC2)=O | C10H8ClNO4S
reactant | aniline | 2.3 g | NC1=CC=CC=C1 | C6H7N
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-phthalimidoethane N-phenylsulfonamide | 1.76 g, 65% | C1(C=2C(C(N1CC)=O)=CC=CC2)=O.C1(=CC=CC=C1)NS(=O)=O | InChI=1S/C10H9NO2.C6H7NO2S/c1-2-11-9(12)7-5-3-4-6-8(7)10(11)13;8-10(9)7-6-4-2-1-3-5-6/h3-6H,2H2,1H3;1-5,10H,(H,7,8,9)
